US06420381B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-aminomethylphenyl)urea:
To a solution of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-phthalimidomethylphenyl)-urea (393 mg, 0.57 mmol) in a mixed solvent of ethanol/chloroform (10 ml) is added hydrazine monohydrate (0.033 ml, 0.68 mmol) at room temperature, and the mixture is stirred at room temperature for 2 hours. To the mixture is further added hydrazine monohydrate (0.14 ml, 3.4 mmol), and the mixture is stirred at room temperature for 4 days. To the mixture is added water, and the mixture is extracted with ethyl acetate. The organic layer is washed twice with an aqueous sodium hydrogen carbonate solution, and dried over anhydrous magnesium sulfate. The solvent is concentrated under reduced pressure, and the residue is purified by silica gel column chromatography to give the title compound (256 mg, 0.46 mmol).

reactant | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-phthalimidomethylphenyl)-urea | 0.57 mmol, 393 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)CN1C(C=2C(C1=O)=CC=CC2)=O)C(C)C)=O | C41H43N5O5
reactant | ethanol chloroform | 10 ml | C(C)O.C(Cl)(Cl)Cl
reactant | hydrazine monohydrate | 0.68 mmol, 0.033 ml | O.NN
reactant | hydrazine monohydrate | 3.4 mmol, 0.14 ml | O.NN
solvent | water | O | H2O
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-aminomethylphenyl)urea | 0.46 mmol, 256 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)CN)C(C)C)=O | C33H41N5O3
